Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
possible rupture of ectopic pregnancy
 
Major Surgical or Invasive Procedure:
Laparoscopic right salpingectomy

 
History of Present Illness:
Patient is a ___ yo G5P1 with a known right tubal ectopic 
pregnancy who presents with new onset of RLQ pain. Ectopic was 
diagnosed 8 days ago and she received her 1st dose of 
methotrexate at that time. Initial HCG was ___. She presented 
for follow-up yesterday where HCG was noted to be 3000 so she 
received a 2nd dose of methotrexate. She reports sudden onset of 
RLQ pain today and was advised to present to the emergency room 
today where ultrasound findings showed free pelvic fluid 
consistent with intraabdominal bleeding.

She reports ___ pain currently. Denies lightheadedness, chest 
pain or palpitations, SOB, N/V, F/C.   Hematocrit is stable at 
40. The patient was taken to the operating room for definitive 
management of ectopic pregnancy given new evidence of rupture.
 
Past Medical History:
OBHx:
- TAB x 2
- SAB x 1
- LTCS x 1

Gyn Hx:
- History uterine septum resected by Dr. ___.
- Denies abnormal pap smears or STIs

PMH:
- Denies

PSH:
- LTCS x 1

All: None
 
Social History:
___
Family History:
NC
 
Physical Exam:
On GYN evaluation:
VS: 98.8   62/30   18  100% RA
Gen: Pleasant, appears comfortable, NAD
CV: RRR
Lungs: CTAB
Abd: Soft, diffusely tender palpation particularly on the right
side
Ext: No edema, NT
Pelvic: Limited as patient was in OR holding area but no 
external
bleeding

 
Pertinent Results:
___ 04:59PM BLOOD WBC-6.1 RBC-4.59 Hgb-14.4 Hct-40.6 MCV-89 
MCH-31.5 MCHC-35.5* RDW-12.6 Plt ___
___ 07:00AM BLOOD WBC-8.4 RBC-4.37 Hgb-13.2 Hct-39.1 MCV-89 
MCH-30.2 MCHC-33.8 RDW-12.3 Plt ___
___ 04:59PM BLOOD HCG-2794
 
Brief Hospital Course:
Ms. ___ a laparoscopic right salpingectomy and 
evacuation of hemaperitoneum for a ruptured tubal ectopic 
pregnancy; please see Dr. ___ report for full 
details. Her postoperative course was uncomplicated, and she was 
discharged on postoperative day 1 in good condition, voiding and 
ambulating, tolerating a regular diet, and her pain 
well-controlled on oral medications. She was instructed to 
follow up with her OB/GYN.
 
Medications on Admission:
none
 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for Pain.
Disp:*60 Tablet(s)* Refills:*0*
2. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for Pain.
Disp:*25 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation for 5 days: take while taking narcotics 
to avoid constipation.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ruptured ectopic pregnancy
hemoperitoneum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:
* fever > 100.4
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Do not combine narcotic and sedative medications or alcohol
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 2 
weeks. 
* You may eat a regular diet.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision.  No bath tubs for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___